US07351719B2
124) 1-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-(2,4-dichloro-benzyl)-urea
203 mg (1.236 mmol) of CDT in 4 mL DMF was added to a solution of 345 mg (1.236 mmol) of 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine-hydrochloride (intermediate product Z1b) and 0.56 mL (4.000 mmol) of triethylamine in 40 mL THF and the mixture was stirred for 2 hours at RT. 176 mg (1.236 mmol) of 2,4-dichloro-benzylamine was added, the reaction mixture was refluxed for 4 hours and then evaporated down i. vac. The residue was purified by column chromatography (silica gel, dichloromethane/MeOH/conc. aqueous ammonia 80:20:1) and the product was triturated with diisopropylether.

reactant | 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine-hydrochloride | 1.236 mmol, 345 mg | Cl.ClC=1C=C(C=CC1OCCN(CC)CC)N
reactant | triethylamine | 4.000 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-benzylamine | 1.236 mmol, 176 mg | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-(2,4-dichloro-benzyl)-urea | ClC=1C=C(C=CC1OCCN(CC)CC)NC(=O)NCC1=C(C=C(C=C1)Cl)Cl | C20H24Cl3N3O2
